US08703765B2
Step 3 3-[(4-Bromo-phenyl)-cyclopropyl-methyl]-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one
The stereochemical assignments of the diastereomers are based on the comparison of the 1H NMR data with the data of the known analogs 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(S)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one and 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one.

reactant | 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(S)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(C1=CC=CC=C1)CC(=C)C)=O | C22H24BrNO2
reactant | 3-[(S)-1-(4-bromo-phenyl)-ethyl]-(R)-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(=C)C)=O | C22H24BrNO2
product | 3-[(4-Bromo-phenyl)-cyclopropyl-methyl]-6-(2-methyl-allyl)-6-phenyl-[1,3]oxazinan-2-one | BrC1=CC=C(C=C1)C(N1C(OC(CC1)(C1=CC=CC=C1)CC(=C)C)=O)C1CC1 | C24H26BrNO2
